US07867980B2
4-Cyclopropylmethylpyridine
A solution of 19.5 ml (200 mmol) of 4-picoline in tetrahydrofuran (120 ml) was cooled to −78° C. Lithium diisopropylamide (2 M heptane, tetrahydrofuran, ethylbenzene solution) (200 ml) was added dropwise to the cooled solution over a period of 20 min, and the mixture was stirred at −40° C. for 20 min and was then cooled to −78° C. Cyclopropyl bromide (16.0 ml, 200 mmol) was added dropwise to the reaction solution over a period of 25 min, and the mixture was stirred at −78° C. for one hr. The reaction solution was then added to 300 ml of a saturated aqueous ammonium chloride solution, and the mixture was washed with 100 ml of water. The solution was extracted twice with 200 ml of ethyl acetate, and the extract was dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated, and the residue was purified by distillation under the reduced pressure (8 mmHg, 86 to 87° C.) and column chromatography on silica gel (hexane:ethyl acetate=70:30) to give 17.6 g (yield 66%) of the title compound.

reactant | 4-picoline | 200 mmol, 19.5 ml | N1=CC=C(C=C1)C | C6H7N
reactant | Lithium diisopropylamide | 2 M, 200 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | Cyclopropyl bromide | 200 mmol, 16.0 ml | C1(CC1)Br | C3H5Br
reactant | ammonium chloride | 300 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 4-Cyclopropylmethylpyridine | 17.6 g, yield 66% | C1(CC1)CC1=CC=NC=C1 | C9H11N
